US08309596B2
A) 7-Chloro-naphthalene-1-carboxylic acid methyl ester
A mixture of 50 ml of methyl 2-furoate and 400 ml of chlorobenzene is stirred at 0° for 30 minutes, at RT for 1.5 hours and at 100° for 16 hours. 121 g of anhydrous AlCl3 are added by portion at 0°. The solution obtained is cooled, poured in an ice-bath and stirred for 30 minutes before extraction of the aq. phase with ether. The organic phase obtained is washed with aq. 10% NaHCO3 solution and brine, dried and solvent is evaporated. The residue obtained is purified by flash chromatography on silica gel (eluent: cyclohexane/EtOAc 99/1 to 95/5) to obtain the title compound.

reactant | methyl 2-furoate | 50 ml | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | chlorobenzene | 400 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | AlCl3 | 121 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | ether | CCOCC | C4H10O
product | 7-Chloro-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC=C(C=C12)Cl | C12H9ClO2
